US07141561B2
1-[3-Benzyl-4-(2-pyrrolidin-1-ylethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-[3-benzyl-4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (60 mg) in acetonitrile (1 ml) was mixed with pyrrolidine (0.2 ml) and sodium iodide (5 mg) and boiled under reflux for 2 hours. The cooled solution was filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 531.66 (C34H33N3O3); MS (ESI): 532 ([M+H]+), was obtained as hydroformate in this way.

reactant | 1-[3-benzyl-4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 60 mg | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCBr)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C30H25BrN2O3
reactant | pyrrolidine | 0.2 ml | N1CCCC1 | C4H9N
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[3-Benzyl-4-(2-pyrrolidin-1-ylethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCN1CCCC1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C34H33N3O3
